US03975389
10 g of 8-α-hydroxyethylcaffeine (Arch. der Pharmazie, 289, 453, 1956) are added and under shaking with 100 ml of thionyl chloride. After 6 hours of reflux, the excess of reagent is evaporated to dryness under reduced pressure and the solid residue washed with petroleum ether. Nearly pure 8-α-chloroethylcaffeine is obtained with a quantitative yield, melting at 190° C from anhydrous benzene.

reactant | 8-α-hydroxyethylcaffeine | 10 g | OC(C)C1=NC=2N(C(N(C)C(C2N1C)=O)=O)C | C10H14N4O3
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 8-α-chloroethylcaffeine | quantitative yield | ClC(C)C1=NC=2N(C(N(C)C(C2N1C)=O)=O)C | C10H13ClN4O2
